US05374720
Hydrazine monohydrate (0.61 ml, 12.6 mmol) was dropwise added to a solution of 3-[(2S,4S)-N-allyloxycarbonyl-4-tritylthiopyrrolidin-2-yl]acrylic acid ethyl ester (1.53 g, 2.9 mmol) in ethanol (7.5 ml) under cooling with ice, and the mixture was stirred at the same temperature for 1.5 hours. The reaction solution was concentrated under reduced pressure. The residue was subjected to silica gel column chromatography (Wakogel™ C-300, 2% methanol-chloroform) to obtain (2S,4S)-N-allyloxycarbonyl-2-(3-pyrazolidinon-5-yl)-4-tritylthiopyrrolidine (830 mg, yield: 51.1%). This compound was immediately dissolved in methylene chloride (10 ml). Then, triethylamine (0.24 ml, 1.7 mmol) and allyl chloroformate (0.18 ml 1.7 mmol) were dropwise added thereto under cooling with ice, and the mixture was stirred at the same temperature for 1 hour. The reaction solution was concentrated under reduced pressure, and the residue was extracted with ethyl acetate (50 ml). The organic layer was washed with water and a saturated sodium chloride aqueous solution, then dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was subjected to silica gel column chromatography (Wakogel™ C-300, 1% methanol-chloroform) to obtain (2S,4S)-N-allyloxycarbonyl-2-(1-allyloxycarbonyl-3-pyrazolidinon-5-yl)-4-tritylthiopyrrolidine (592 mg, yield: 62%).

reactant | Hydrazine monohydrate | 12.6 mmol, 0.61 ml | O.NN
reactant | 3-[(2S,4S)-N-allyloxycarbonyl-4-tritylthiopyrrolidin-2-yl]acrylic acid ethyl ester | 2.9 mmol, 1.53 g | C(C)OC(C=C[C@H]1N(C[C@H](C1)SC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C(=O)OCC=C)=O | C32H33NO4S
solvent | ethanol | 7.5 ml | C(C)O | C2H6O
product | (2S,4S)-N-allyloxycarbonyl-2-(3-pyrazolidinon-5-yl)-4-tritylthiopyrrolidine | 830 mg, yield: 51.1% | C(C=C)OC(=O)N1[C@@H](C[C@@H](C1)SC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C1CC(NN1)=O | C30H31N3O3S
